US06642240B2
2-(4-Fluoro-2-methyl-phenyl)-piperazine hydrochloride
2-(4-Fluoro-2-methyl-phenyl)pyrazine (0.3 g) dissolved in EtOH 95% (20 mL) and 37% HCl (0.2 mL) was hydrogenated at 5 atm. for 4 hr, in the presence of 20% Pd(OH)2/C (30 mg) as catalyst. The catalyst was filtered off and the solvent was evaporated. The crude residue was triturated in MeOH/AcOEt (5 mL/15 mL) to obtain the title compound (0.08 g) as a white powder.

reactant | 2-(4-Fluoro-2-methyl-phenyl)pyrazine | 0.3 g | FC1=CC(=C(C=C1)C1=NC=CN=C1)C | C11H9FN2
reactant | HCl | 0.2 mL | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 30 mg | [OH-].[OH-].[Pd+2]
product | 2-(4-Fluoro-2-methyl-phenyl)-piperazine hydrochloride | 0.08 g | Cl.FC1=CC(=C(C=C1)C1NCCNC1)C | InChI=1S/C11H15FN2.ClH/c1-8-6-9(12)2-3-10(8)11-7-13-4-5-14-11;/h2-3,6,11,13-14H,4-5,7H2,1H3;1H
